US04017503
A. tetraethylene glycol monomethyl ether chloroformate
A mixture of 12.9 g. (62 mmoles) of tetraethylene glycol monomethyl ether and 4.9 g. (62 mmoles) of pyridine is added dropwise to 77 ml. (124 mmoles) of a 17.2% solution of phosgene in benzene stirred in an ice bath with protection from moisture. The pyridine hydrochloride precipitates during the 35 to 40 minute addition and stirring is continued in the ice bath for an additional 2 hours. The reaction mixture is allowed to warm to room temperature and stirred overnight. The benzene solution is decanted from the pyridine hydrochloride which is washed with additional benzene. A stream of nitrogen is passed through the solution to remove excess phosgene as well as most of the benzene. The residual oil is dissolved in benzene-hexane and filtered to remove additional pyridine hydrochloride. The filtrate is evaporated to dryness in vacuo affording 17.1 g. of a residual oil, the infrared analysis of which reveals a strong carbonyl absorption and minimal hydroxyl absorption. The oil is used as is in the next step.

reactant | tetraethylene glycol monomethyl ether | 62 mmoles | COCCOCCOCCOCCO | C9H20O5
reactant | pyridine | 62 mmoles | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | tetraethylene glycol monomethyl ether chloroformate | ClC(=O)OCCOCCOCCOCCOC | C10H19ClO6
